US08236801B2
B.1.1 Synthesis of (1R,3S,4S)-2-Aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester
A solution of (1S,3S,4R)-2-((R)-1-Phenyl-ethyl)-2-aza-bicyclo[2.2.1]hept-5-ene-3-carboxylic acid methyl ester (61.0 mmol; N. Hashimoto, H. Yasuda, M. Hayashi, Y. Tanabe Org. Proc. Res. Dev. 2005, 9, 105-109) in EtOH (100 mL) is treated with di-tert-butyl dicarbonate (62.2 mmol, 1.02 eq) and Pd/C (10%, 2.0 g). The mixture is stirred under a hydrogen atmosphere (7 bar) for 3 d. After filtration through celite and removal of the solvents in vacuo the desired product is obtained which is used without further purification.

reactant | (1S,3S,4R)-2-((R)-1-Phenyl-ethyl)-2-aza-bicyclo[2.2.1]hept-5-ene-3-carboxylic acid methyl ester | 61.0 mmol | COC(=O)[C@H]1N([C@@H]2C=C[C@H]1C2)[C@H](C)C2=CC=CC=C2 | C16H19NO2
reactant | di-tert-butyl dicarbonate | 62.2 mmol, 1.02 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | (1R,3S,4S)-2-Aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | COC(=O)[C@H]1N([C@@H]2CC[C@H]1C2)C(=O)OC(C)(C)C | C13H21NO4
